US03990880
Preparation of 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone
1.59 Parts of methyl chloroformate was added dropwise during 15 minutes to a stirred solution of 1.87 parts of triethylamine and 5 parts of 2-(4-chloro-2-fluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylic acid in 200 parts of methylene chloride cooled to 0° C. The reaction mixture was allowed to come to ambient temperature during 1 hour after which it was washed successively with 100 parts of water (twice) and 100 parts of a saturated aqueous sodium chloride solution. After drying with anhydrous sodium sulfate, the solution was evaporated under reduced pressure of 300 mm. Hg at 25° C to 5.6 parts of a yellow semisolid. Analysis of the semisolid by high pressure liquid chromatography indicates the presence of 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone in 51% concentration.

reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chloro-2-fluorophenylaminocarbonyl)-1-cyclohexene-1-carboxylic acid | ClC1=CC(=C(C=C1)NC(=O)C1=C(CCCC1)C(=O)O)F | C14H13ClFNO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(4-chloro-2-fluorophenylimino)-4,5,6,7-tetrahydro-1-(3H)-isobenzofuranone | ClC1=CC(=C(C=C1)N=C1OC(C=2CCCCC12)=O)F | C14H11ClFNO2
